Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
right upper quadrant pain
 
Major Surgical or Invasive Procedure:
ERCP and removal of 2 gallstones

 
History of Present Illness:
___ G4P3 @ 20w4d transfer from ED with gallbladder US
concerning for choledocolithiasis. Patient reports three
episodes of sudden onset abdominal bloating, back pain, N/V this
week usually associated with eating. She has had a total of six
similar episodes since ___. They became subsequently worse
this week until the patient presented to ___
yesterday and was given IV morphine for pain control. She was
transferred to ___ ED last night for further work-up as
ultrasound was not available per patient. 

The work-up in the ED showed abnormal AST/ALT of 174/130 though
they were normal at the OSH. Gallbladder US showed a 7mm dilated
CBD with no stone visualized though the entire duct was not able
to be visualized. Gallstones were present in the gallbladder.

In addition, the patient has not sought out regular PNC as she
has been very conflicted about whether or not to continue this
pregnancy. She was strongly considering termination at the
beginning of pregnancy, but was afraid of the emotional toll it
would take on her. She met with ___ at ___
after she expressed hesitation about her decision to terminate 
at
her family planning clinic visit on ___.

 
Past Medical History:
PNC:
*) Dating: ___: ___ by LMP c/w 18wk US
*) Labs: O+/ab- Oher PNL not done due to ambivalence re 
pregnancy
*) Routine:
- Genetics: LR NIPT
- U/S: nl full fetal survey
- GLT: no yet done
*) Issues
- Conflicted about pregnancy termination

POBHx: 
G1 NSVD IUI
G2 NSVD IVF
G3 NSVD IVF
G4 Current
PGynHx: Denies STDs or abnl paps
PMH: resolved vulvodynia, Vit D deficiency
PSH: egg retrieval, polypectomy
Meds: PNV
All: NKDA
SH: Denies EtOH/Smoking/Drugs

 
Social History:
SH: Denies EtOH/Smoking/Drugs

___ Caucasian homemaker and mother of three. Born
and raised in ___. Lives with husband and three children (ages ___,
___, and ___). Has twin sister who recently delivered first child; 
no
other siblings. Parents lives 25 min away from patient; 
patient's
mother has been very helpful in taking care of her kids.
College-educated, used to work in ___ and ___.

 
Physical Exam:
Initial PE: VS 98.1 106/53 82 18
Gen: NAD, tearful when speaking about possibly terminating
pregnancy
Abd: soft, gravid, NT
SVE: deferred
Ext: NT, no edema

FHR: 140s

 
Pertinent Results:
___ 08:06AM BLOOD WBC-6.2 RBC-3.14* Hgb-10.1* Hct-28.8* 
MCV-92 MCH-32.1* MCHC-35.0 RDW-15.0 Plt ___
___ 04:58AM BLOOD WBC-5.4 RBC-3.24* Hgb-10.4* Hct-29.5* 
MCV-91 MCH-32.3* MCHC-35.4* RDW-14.7 Plt ___
___ 03:52PM BLOOD WBC-8.1 RBC-3.58* Hgb-11.4* Hct-32.4* 
MCV-91 MCH-31.8 MCHC-35.2* RDW-14.5 Plt ___
___ 11:00AM BLOOD WBC-8.0 RBC-3.29* Hgb-10.6* Hct-30.4* 
MCV-92 MCH-32.2* MCHC-34.9 RDW-14.8 Plt ___
___ 12:25PM BLOOD WBC-9.0# RBC-3.62* Hgb-11.6* Hct-33.8* 
MCV-93 MCH-32.0 MCHC-34.3 RDW-15.0 Plt ___
___ 04:58AM BLOOD Neuts-79.0* Lymphs-16.2* Monos-3.9 
Eos-0.5 Baso-0.4
___ 03:52PM BLOOD Neuts-83.8* Lymphs-12.1* Monos-3.8 
Eos-0.2 Baso-0.1
___ 11:00AM BLOOD Neuts-83.7* Lymphs-12.7* Monos-3.2 
Eos-0.3 Baso-0.1
___ 11:00AM BLOOD Glucose-81 UreaN-7 Creat-0.4 Na-136 K-3.8 
Cl-103 HCO3-22 AnGap-15
___ 12:25PM BLOOD ALT-11 AST-17 AlkPhos-64 TotBili-0.3
___ 11:00AM BLOOD ALT-130* AST-174* AlkPhos-100 
TotBili-1.9*
___ 03:52PM BLOOD ALT-137* AST-165* AlkPhos-119* 
TotBili-3.1* DirBili-2.4* IndBili-0.7
___ 04:58AM BLOOD ALT-113* AST-111* AlkPhos-127* 
TotBili-4.6* DirBili-3.9* IndBili-0.7
___ 08:06AM BLOOD ALT-87* AST-62* TotBili-0.9 DirBili-0.4* 
IndBili-0.5
___ 12:25PM BLOOD TotProt-6.4 Albumin-4.0 Globuln-2.4
___ 08:06AM BLOOD HBsAg-NEGATIVE
___ 08:06AM BLOOD HIV Ab-NEGATIVE
RAPID PLASMA REAGIN TEST (Final ___: 
      NONREACTIVE. 
      Reference Range: Non-Reactive. 
 RUBELLA IgG SEROLOGY (Pending): 

 
Brief Hospital Course:
On ___ Ms. ___ was admitted to the ___ service 
for management of choledocolithiasis. She underwent an 
uncomplicated ERCP on ___ after thoroughly discussing the 
risks and benefits with her ___ OB team and an MFM 
consultation.
Of note this pregnancy has been complicated by ambivalence 
regarding continuation of this unplanned pregnancy. She was 
again offered social work to continue this discussion but she 
declined. Her post procedure course was uncomplicated and her 
diet was easily advanced to a regular low fat diet. 
 
Medications on Admission:
prenatal vitamins
 
Discharge Medications:
prenatal vitamins
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Choledocolithiasis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
low fat diet
follow up with PCP and OB/GYN  this week
 
Followup Instructions:
___